US05175157
2-[2-(N-(3-(3-Methyl-phenoxy)-propyl)-piperid-2-yl)-ethyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride
Prepared from 2-[2-(piperid-2-yl)-ethyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 1-chloro-3-(3-methyl-phenoxy)-propane analogously to Example 1.

reactant | 2-[2-(piperid-2-yl)-ethyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1C(CCCC1)CCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C18H26N2O3
reactant | 1-chloro-3-(3-methyl-phenoxy)-propane | ClCCCOC1=CC(=CC=C1)C | C10H13ClO
product | 2-[2-(N-(3-(3-Methyl-phenoxy)-propyl)-piperid-2-yl)-ethyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | Cl.CC=1C=C(OCCCN2C(CCCC2)CCN2C(C3=CC(=C(C=C3CC2)OC)OC)=O)C=CC1 | InChI=1S/C28H38N2O4.ClH/c1-21-8-6-10-24(18-21)34-17-7-14-29-13-5-4-9-23(29)12-16-30-15-11-22-19-26(32-2)27(33-3)20-25(22)28(30)31;/h6,8,10,18-20,23H,4-5,7,9,11-17H2,1-3H3;1H
